US07411072B2
N-[3-(1-Fluoro-10,11-dihydro-5H-dibenzo[a,d]cyclohepten-5-ylmethyl)-phenyl]-methanesulfonamide
Dissolve 150 mg (0.38 mmol) N-[3-(1-fluoro-10,11-dihydro-dibenzo[a,d]cyclohepten-5-ylidenemethyl)-phenyl]-methanesulfonamide in EtOH (5 mL) and add 10% Pd/C (50 mg). Stir for 18 h under an atmosphere of hydrogen. Filter and concentrate. Purify the crude product using column chromatography (10% EtOAc/hexane→25% EtOAc/hexane) to give 6 mg product as a colorless oil. MS (ES) 394 (M−1). HPLC shows 99% purity.

reactant | N-[3-(1-fluoro-10,11-dihydro-dibenzo[a,d]cyclohepten-5-ylidenemethyl)-phenyl]-methanesulfonamide | 0.38 mmol, 150 mg | FC1=CC=CC=2C(C3=C(CCC21)C=CC=C3)=CC=3C=C(C=CC3)NS(=O)(=O)C | C23H20FNO2S
solvent | EtOH | 5 mL | CCO | C2H6O
catalyst | Pd/C | 50 mg | [Pd] | Pd
product | N-[3-(1-Fluoro-10,11-dihydro-5H-dibenzo[a,d]cyclohepten-5-ylmethyl)-phenyl]-methanesulfonamide | 6 mg | FC1=CC=CC=2C(C3=C(CCC21)C=CC=C3)CC=3C=C(C=CC3)NS(=O)(=O)C | C23H22FNO2S
